Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
SOB, RUE edema
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M who after a cholecystectomy in ___ was found to 
have symptoms of hypotension and was found to be in complete 
heart block. In ___, a pacer was placed and the patient 
had been asymptomatic for one year until this ___ when 
he was found to be passing out and having decreases in his blood 
pressure. He was admitted at ___ where he was found to 
have a clot in his R IJ, extending into his SVC and he was 
started on Coumadin. 

Additionally, he was started on fludrocortisone and midodrine 
for his orthostatic hypotension. He was discharged to rehab. 2 
weeks ago, the patient's last week in rehab, the patient noticed 
to have increasing DOE. He denied CP, PND, orthopnea or f/c. He 
was d/c'd from rehab 1 week ago and over the last 3 days, his 
DOE has been worsening and associated with a dry cough. He went 
to ___ where he was found to have multifocal PNA by CXR 
and was started on vacn/cefepime.

 
Past Medical History:
Hypothyroidisim  
3rd degree AV block s/p PPM  
Hx of R IJ and subclavian thrombosis on coumadin  
Orthostatic Hypotension  

 
Social History:
___
Family History:
Denies FH of clotting/bleeding disorders.
 
Physical Exam:
ADMISSION
VS: T 99 BP 147/83 HR 81 R 18 ___
Gen: NAD
HEENT: + R facial flushing, external jugular veins engourged 
b/l. IJ pulsations not visualized
Lungs: audible wheezing, no increased WOB, crackles and wheezing 
scattered throughout
___: Difficult to hear over transmitted upper airway noise. 
Regular
ABD: NTND
Ext: Warm, no edema ___ b/l. RUE grossly edematous, sensation and 
pulses intact
Skin: + venous engourgment on R back. L anterior chest has well 
healed scar with pacer beneath. No edema, errythema or 
induration

DISCHARGE
Vital Signs: 97.6 128/72 84 20 93%2L
GEN: Alert, NAD
HEENT: NC/AT
CV: RRR, no m/r/g
PULM: still with scattered wheezing; some coughing noted with 
deep breathing; breathing comfortably overall
GI: S/NT/ND, BS present 
EXT: 2+ pitting edema in the RUE; 1+ pitting edema in the LUE
 
Pertinent Results:
Admission Labs:
___ 07:00PM BLOOD WBC-9.1 RBC-3.20* Hgb-10.6* Hct-32.3* 
MCV-101* MCH-33.1* MCHC-32.8 RDW-13.7 RDWSD-50.8* Plt ___
___ 07:00PM BLOOD Neuts-71.4* Lymphs-11.7* Monos-14.9* 
Eos-1.5 Baso-0.3 Im ___ AbsNeut-6.46* AbsLymp-1.06* 
AbsMono-1.35* AbsEos-0.14 AbsBaso-0.03
___ 07:00PM BLOOD ___ PTT-38.0* ___
___ 07:00PM BLOOD Glucose-122* UreaN-22* Creat-1.0 Na-137 
K-3.3 Cl-95* HCO3-28 AnGap-17
___ 07:00PM BLOOD ___
___ 07:00PM BLOOD Calcium-9.4 Phos-3.5 Mg-2.0

Discharge Labs:
___ 06:00AM BLOOD WBC-8.6 RBC-3.01* Hgb-10.1* Hct-31.1* 
MCV-103* MCH-33.6* MCHC-32.5 RDW-13.8 RDWSD-51.9* Plt ___
___ 06:00AM BLOOD Glucose-105* UreaN-24* Creat-1.0 Na-138 
K-3.7 Cl-96 HCO3-34* AnGap-12

___ 07:00PM BLOOD ___
___ 02:16AM BLOOD ___
___ 06:10AM BLOOD proBNP-3912*

___ 07:39PM BLOOD Lactate-1.8
___ 01:54PM BLOOD Lactate-1.0
___ 03:26AM BLOOD Lactate-1.2

___ 01:35AM URINE Color-Yellow Appear-Clear Sp ___
___ 01:35AM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 01:35AM URINE RBC-7* WBC-<1 Bacteri-FEW Yeast-NONE 
Epi-<1

========================================
Micro:

BCx negative x2
MRSA screen +

========================================

ECG - A-V sequentially paced rhythm with capture as evidenced in 
lead V1. No previous tracing available for comparison.  

========================================
Imaging:

CTA Chest - IMPRESSION:  
1. Left subclavian vein and proximal SVC are not well assessed 
along the course of the pacemaker leads and there is artifact 
from the pacer leads. Patency of these portions of the vessel 
cannot be confirmed on this study.  No definite contrast is seen 
along the proximal to mid left subclavian and proximal svc, 
which may be chronically occluded.  No thrombus within the right 
atrium.  Multiple collateral vessels are seen.
2. Patent right IJ.  Left IJ not visualized, may be very 
attenuated chronically, chronically occluded comparison with 
prior study would be helpful. 
3. No evidence of pulmonary embolism up to the lobar level or 
aortic abnormality. 
4. Multifocal pneumonia with ground-glass opacities within right 
upper and left lower lobes. 3 cm hypodensity along right major 
fissure may represent loculated pleural fluid or less likely 
fat, lipoid pneumonia not excluded. 5.  Limited evaluation of 
the neck demonstrates peritracheal soft tissue swelling and 
concern for retropharyngeal edema.  The airway is patent. 
Consider neck CT for better assessment. 
6.  Small pericardial effusion. 
7.  1.7 cm left thyroid nodule.  If indicated and not previously 
assessed consider nonurgent thyroid ultrasound for further 
evaluation. 

Bilateral Upper Extremity U/S - FINDINGS:  
There is normal flow with respiratory variation in the bilateral 
subclavian veins. 
The bilateral internal jugular veins contain non-occlusive 
thrombus of indeterminate age.  The right internal jugular vein 
is thick walled with slow flow within which may be indicative of 
more chronic thrombus. The subclavian veins are patent 
bilaterally. 
The right brachial, basilic, and cephalic veins are patent and 
compressible. 
IMPRESSION:  
Nonocclusive thrombus in the bilateral internal jugular veins. 

TTE - The left atrium is mildly dilated. A density in the 
posterior right atrium likely represents prominent eustachian 
valve. Left ventricular wall thicknesses and cavity size are 
normal. There is mild global left ventricular hypokinesis (LVEF 
= 45-50 %). The estimated cardiac index is normal 
(>=2.5L/min/m2). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). The right 
ventricular cavity is mildly dilated with borderline normal free 
wall function. The aortic root is mildly dilated at the sinus 
level. The ascending aorta is mildly dilated. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. There is mild 
pulmonary artery systolic hypertension. There is a trivial 
pericardial effusion. 
IMPRESSION: Normal biventricular cavity sizes with borderline 
right and mildly depressed left ventricular systolic function. 
Mildly dilated thoracic aorta. Mild mitral regurgitation. Mild 
pulmonary hypertension. 

LLE U/S - IMPRESSION: No evidence of deep venous thrombosis in 
the left lower extremity veins. Peripheral nonocclusive thrombus 
(of indeterminate age) or wall thickening in a 
superficial/varicose vein along the popliteal fossa 

CXR (___) - IMPRESSION:  
No previous images.  Cardiac silhouette is enlarged and there is 
indistinctness of engorged pulmonary vessels consistent with 
elevated pulmonary venous pressure.  Retrocardiac opacification 
with poor definition of the hemidiaphragms consistent with 
volume loss in left lower lobe and pleural fluid.  Dual-chamber 
pacer device is in place with leads in the right atrium and 
right ventricle. 

CXR (___) -  IMPRESSION:  
Pacemaker and its leads are in unchanged position.  Right upper 
lobe consolidation is re- demonstrated, concerning for 
pneumonia.  No pulmonary edema demonstrated.  No appreciable 
pleural effusion seen.  There is no pneumothorax. 

Right Fool X-rays  
IMPRESSION: No evidence of acute bone or joint space 
abnormality.  Of incidental note is vascular calcification about 
the lower leg and ankle. 
  

Right Foot U/S - IMPRESSION:  
No acute process identified in the region of the dorsal lateral 
right foot, in the area of pain.  Specifically, no suspicious 
fluid collection or soft tissue swelling.
 
Brief Hospital Course:
___ y/o M with PMHx of sCHF, 3rd degree heart block s/p PPM, and 
recent RIJ thrombus, who presented to ___ with SOB and 
cough concerning for CHF exacerbation vs PNA and was also found 
to have a new left-sided thrombus. Hematology was consulted. He 
is on Lovenox for the thrombus. Treated with abx for PNA. Course 
also notable for persistent wheezing, attributed to reactive 
airways, improving with steroids and nebs.

# Dyspnea: On presentation, dysphagia and audible wheezing were 
initially concerning for upper airway obstruction likely from 
oropharynx edema ___ venous thrombosis. He was evaluated by ENT 
who was not concerened for a mass, and he was found to have 
possible retropharyngeal edema on chest CT. Patient was given 
dexamethasone 10mg IV. On the floor, the patient had difficulty 
breathing with an increase O2 requirment from 4 to 5L and 
diffuse wheezing on exam. He was given a duoneb and transfered 
to the ICU briefly. Ultimately, his shortness of breath was felt 
to be multifactorial. Pt had a pneumonia, for which he received 
an 8 day course of abx. There is also likely a component of 
airway inflammation contributing as well, given wheezing on 
exam. Treated with nebs, also started steroids ___ (last 
day ___. Finally, there may also have been a component of 
volume overload contributing; although this seems less likely to 
still be present given recent CXR and downtrending
BNP. Propagation of known thrombi seems less likely given that 
patient is therapeutically anticoagulated at this time. 
Respiratory status much improved by the time of discharge.

# Bialteral Internal Jugular Thromboses: He presented with a 
recent history of thrombosis in R IJ. He now presented with 
thrombus in L IJ in setting of Coumadin with therapeutic INR 
although there is no prior study to compare with. R extremity is 
markedly edematous with R sided facial flushing and fullness. 
There was initial concern for SVC syndrome; however, pt improved 
clinically. Ongoing clot formation raises concern for malignancy 
given that he was therapeutic on warfarin. Thromboses could also 
be associated with pacer leads. Hematology involved. He was 
initially placed on a heparin gtt and then trantioned to ___ 
per the Hematology consult recs. 

# Edema: Most notable in the upper extremities, R>L. Likely 
related to known clots. Improved with wrapping/elevating upper 
extremities.

# PNA: Pt with evidence of multifocal PNA. There was a question 
of lipoid PNA per radiology read. Pt has been reporting 
constipation, possible that he may have aspirated mineral oil. 
Was initially treated as HCAP given recent hospitalization with 
vanc/cefepime. However, given stable overall clinical picture as 
well as absence of fever/leukocytosis, narrowed abx to 
CTX/azithro. He completed an 8 day course of antibiotics.

# Dysphagia: Pt has had progressive dysphagia to both liquids 
and solids which is concerning for an upper airway obstruction. 
Possibly CA given h/o smoking (cigars and pipes ___ and 
___ esophagitis. ENT did an upper airway scope on ___ 
which was negative. Swallowing improved over the course of his 
hospitalization. Could consider formal swallow evaluation if any 
further complaints of dysphagia.

# Orthostatic Hypotension: Per outpt records this is attributed 
to IJ/SVC clots leading to decreased pre-load. Could have 
component of pacer dysynchrony. On midodrine and 
fludrocortisone.

# Right Ankle Pain: Sudden onset during admission without 
preceding trauma. X-ray and u/s negative for acute process. Pain 
resolved spontaneously.

# LLE Pain: Patient underwent LLE ultrasound and found to have 
thrombosed distended varicose vein on imaging. Superficial 
thrombophlebitis. Treating supportively.

# CHB s/p PPM: No acute issues.
# Hypothyroidism: On levothyroxine.
# Thyroid Nodule: Seen on CT scan. Will need outpatient 
follow-up.

TRANSITIONAL ISSUES:
- Continue prednisone burst (last day ___
- Continue Lovenox, Factor Xa level checked on the day of 
discharge to ensure appropriate dosing and will need to be 
followed up
- Continue arm elevation/wrapping
- Consider swallow evaluation if any further episodes of 
dysphagia

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 25 mcg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Midodrine 10 mg PO TID 
4. Warfarin 2 mg PO DAILY16 
5. Fludrocortisone Acetate 0.2 mg PO QAM 
6. Fludrocortisone Acetate 0.1 mg PO QPM 
7. Nabumetone 500 mg PO DAILY 
8. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN wheezing 
9. Senna 8.6 mg PO QHS:PRN constipation 
10. Bacitracin Ointment 1 Appl TP BID 
11. Testosterone Cypionate 1 ml TP EVERY OTHER WEEK 

 
Discharge Medications:
1. Fludrocortisone Acetate 0.1 mg PO BID 
2. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN wheezing 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. Midodrine 10 mg PO TID 
5. Senna 8.6 mg PO QHS:PRN constipation 
6. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN SOB 
7. Benzonatate 100 mg PO TID:PRN cough 
8. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
9. Docusate Sodium 100 mg PO BID 
10. Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
11. Fluticasone Propionate 110mcg 1 PUFF IH BID 
12. PredniSONE 40 mg PO DAILY Duration: 1 Day 
Take for 1 more day (last day is ___. 
13. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Bilateral IJ Thromboses
Pneumonia
Reactive Airways
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted to the hospital with worsening swelling in 
your arms. You were found to have new clots. Because of this, 
your blood thinning medications were changed.

You also were having a lot of shortness of breath. This was felt 
to be related to a number of issues, particularly pneumonia and 
airway inflammation. You were treated with steroids, nebulizers, 
and antibiotics. Your breathing was much improved at the time of 
discharge.

You should continue to elevated your arms to prevent swelling.

Of note, your CT scan showed a nodule in your thyroid. This is a 
relatively common finding, but it is important that you 
follow-up with your PCP to have an ultrasound to further 
evaluate this.
 
Followup Instructions:
___